US07179820B2
Imidazole (1.16 g, 17.0 mmol) and tert-butyldimethylsilyl chloride (1.18 g, 7.85 mmol) were added sequentially to a solution of racemic 6-hydroxymethyl-piperidin-2-one (prepared from racemic α-aminoadipic acid according to Huang, et al., Synth. Commun. 1989, 19, 3485–3496, 921 mg, 7.14 mmol) in DMF (10 mL) at 0° C. The reaction mixture was allowed to warm to rt and was stirred at rt for 17 h. Benzene and EtOAc (3:7, 200 mL) was added and the solution was washed with brine (3×50 mL). The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→3% MeOH/CH2Cl2, gradient) afforded 1.53 g (88%) of 6-(tert-butyl-dimethyl-silanyloxymethyl)-piperidin-2-one as a white solid.

reactant | Imidazole | 17.0 mmol, 1.16 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 7.85 mmol, 1.18 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | racemic 6-hydroxymethyl-piperidin-2-one | 7.14 mmol, 921 mg | OCC1CCCC(N1)=O | C6H11NO2
reactant | Benzene | C1=CC=CC=C1 | C6H6
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-(tert-butyl-dimethyl-silanyloxymethyl)-piperidin-2-one | 1.53 g, 88% | C(C)(C)(C)[SiH2]OC(C1CCCC(N1)=O)(C)C | C12H25NO2Si
